**** Test netlist for  Foster N Port Model *****
*
* Two-port coupled antena test
*

.ac start=10 stop=1e9 n_freqs=400

vsource:vin 1 0 vac = 1v 
r:rin 1 port1 r=50

FosterNPort:f1 port1 port2 0 filename = "foster_r1nw.txt" ports = 2

r:rload port2 0 r=50

*open:o1 1 0 

.options gnuplot

.options preamble="set term x11 font 'helvetica,13';
         set title 'Signal at Receiver Port';
         set xlabel 'FREQUENCY (MHz)'; set ylabel 'VOLTAGE (microvolts)' "
.out plot term "port2" vf mag 1e6 mult 1e-6 scalex preamble in "v2_ac.out"

.end
